US07910740B2
[4-(4-Methyl-imidazol-1-yl)-phenyl]-(5-methyl-4-phenyl-thiazol-2-yl)-amine
Prepared in analogy to example 64d) from 100 mg (0.43 mmol) [4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea and 101 mg (0.47 mmol) 2-bromopropiophenone. 140 mg (94%) of the product was isolated as a colorless solid. MS ISP (m/e): 347.1 (100) (M+H)+. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.48 (s, 1H), 9.46 (s, 1H), 7.93 (s, 1H), 7.88 (d, 2H), 7.69 (d, 2H), 7.47 (t, 2H), 7.36 (t, 1H), 2.46 (s, 3H), 2.34 (s, 3H).

reactant | [4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.43 mmol, 100 mg | CC=1N=CN(C1)C1=CC=C(C=C1)NC(=S)N | C11H12N4S
reactant | 2-bromopropiophenone | 0.47 mmol, 101 mg | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
product | [4-(4-Methyl-imidazol-1-yl)-phenyl]-(5-methyl-4-phenyl-thiazol-2-yl)-amine | 140 mg, 94% | CC=1N=CN(C1)C1=CC=C(C=C1)NC=1SC(=C(N1)C1=CC=CC=C1)C | C20H18N4S
